* X:\taller-circuitos-tpi\CHECK 4\Simus\pwm\PWM.asc
V+ V+ 0 PWL(0 0 10n 6)
R4 N001 V_cuadrada1 80
R5 V_triangular1 N002 100
R6 V_cuadrada1 N002 1k5
C2 N001 V_triangular1 1n
XU3 ref1 N001 V+ 0 V_triangular1 TLV247xA
XU5 V_triangular1 ref2 Vlm 0 V_cuadrada385 LM2901
XU6 N003 ref1 V+ 0 ref1 TLV247xA
R7 V+ N003 100k
R8 N003 0 100k
V1 v1 0 PWL(0 0 10n 6)
R1 v1 ref2 100k
R2 ref2 0 100k
R3 v1 V_cuadrada385 1k
C1 V_cuadrada385 0 10p
V2 Vlm 0 PWL(0 0 10n 10)
C3 V_cuadrada1 0 10p
R9 v1 V_cuadrada1 300
XU1 N002 ref1 Vlm 0 V_cuadrada1 LM2901
C4 ref2 0 100n
R10 V_cuadrada1 N002 100k
.tran 0 40u 10u
.lib sloj018.txt
.lib LM2901.lib
.backanno
.end
